US05126448
g of N-cyclohexyl-2-tert-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-carboamide was added to 30 ml of ethyl acetate. A mixture of 5N hydrochloric acid and 13.3 ml of ethyl acetate was further added thereto and stirred for 2 hours at 50° C. to form a precipitate. The precipitate was separated by filtration and washed with 30 ml of ether to obtain 6.37 g of N-cyclohexyl-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-carboamide.hydrochloride (yield 82%).

reactant | N-cyclohexyl-2-tert-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-carboamide | C1(CCCCC1)NC(=O)C1(CC2C3(C(=NCC2)C=CC=C3)S1)C(=O)OC(C)(C)C | C23H32N2O3S
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ethyl acetate | 13.3 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-cyclohexyl-1,2,3,4-tetrahydro-benzo[b]thieno[2,3-c]pyridine-carboamide.hydrochloride | 6.37 g, yield 82% | Cl.C1(CCCCC1)NC(=O)C1CC2C3(C(=NCC2)C=CC=C3)S1 | InChI=1S/C18H24N2OS.ClH/c21-17(20-14-6-2-1-3-7-14)15-12-13-9-11-19-16-8-4-5-10-18(13,16)22-15;/h4-5,8,10,13-15H,1-3,6-7,9,11-12H2,(H,20,21);1H
